data/core_train_final.csv
"[H:23][C:22](=[C:15]([H:14])[C:16]1=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]1)[H:24].[H:1][C:2]([C:8]1=[CH:9][CH:10]=[CH:11][CH:12]=[CH:13]1)[C:3]([H:4])([H:5])[O:6][H:7]>>[H:14][C:15]([C:16]1=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]1)[C:22]([H:23])([H:24])[C:2]([H:1])([C:8]2=[CH:9][CH:10]=[CH:11][CH:12]=[CH:13]2)[C:3]([H:4])([H:5])[O:6][H:7] 2-2,22;22,15-2,22;22,15-15",Room Temperature,Propagation,addition
"[O:2][Br:1].[He]>>[He].[O:2].[Br:1] 1,2-2; 1,2-1",Light,Initiation,homolyze
"[CH2:20]=[C:21]1CCCC1.[Br:10]>>C1CC[C:21](C1)[CH2:20][Br:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH:21](C1=CC=CC=C1)Cl.[Cl:10]>>[H:20][Cl:10].C1=CC=C(C=C1)[CH:21]Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH:7]1=[CH:6][CH:5]([O:10][O:9][CH:8]1)[CH2:4][CH2:3][CH:2]=[O:1]>>[CH2:3]([CH2:4][CH:5]([CH:6]=[CH:7][CH:8]=[O:9])[O:10])[CH:2]=[O:1] 8-8,9; 9,10-8,9; 9,10-10",Room Temperature,Propagation,retroaddition
"ClC1[CH:10]CCCC1.[Cl:20][S:21](=O)(Cl)=O>>ClC2[CH:10]([Cl:20])CCCC2.O=[S:21](Cl)=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]1[CH2:5][CH2:6][CH2:7][CH:2]1[Cl:1].[Cl:8]>>[H:4][C:3]1([CH2:5][CH2:6][CH2:7][CH:2]1[Cl:1])[Cl:8] 3-3,8;8-3,8",Room Temperature,Termination,recombine
"COC(=O)[C:10]C(=O)OC.[CH2:20]=[CH:21]CCCCO>>COC(=O)[C:10]([CH2:20][CH:21]CCCCO)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH:7]1=[CH:6][CH:5]=[C:4]([CH:9]=[CH:8]1)[O:3][O:2][C:1]2=[CH:10][CH:11]=[CH:12][CH:13]=[CH:14]2>>[CH:12]1=[CH:11][CH:10]=[C:1]([CH:14]=[CH:13]1)[O:2].[CH:7]1=[CH:6][CH:5]=[C:4]([CH:9]=[CH:8]1)[O:3] 2,3-2;3,2-3",Room Temperature,Initiation,homolyze
"[CH3:20][CH2:21][CH2:22][CH2:23][Sn:24]([CH2:25][CH2:26][CH2:27][CH3:28])[CH2:29][CH2:30][CH2:31][CH3:32].[CH3:7][C:6](=[O:8])[O:5][C:4]1=[CH:3][C:2](=[O:1])[CH2:19][C:10]([CH2:9]1)([CH2:15][C:16](=[CH2:18])[I:17])[C:11](=[O:14])[O:12][CH3:13]>>[CH3:20][CH2:21][CH2:22][CH2:23][Sn:24]([CH2:25][CH2:26][CH2:27][CH3:28])([CH2:29][CH2:30][CH2:31][CH3:32])[I:17].[CH3:7][C:6](=[O:8])[O:5][C:4]1=[CH:3][C:2](=[O:1])[CH2:19][C:10]([CH2:9]1)([CH2:15][C:16]=[CH2:18])[C:11](=[O:14])[O:12][CH3:13] 24-24,17; 17,16-17,24; 17,16-16",Room Temperature,Propagation,abstraction
"[H:20][Br:21].CC([C:10](C)C)Br>>[H:20][C:10](C)(C)C(C)Br.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:8][C:2]1([CH2:7][CH2:6][CH2:5][CH:4]=[CH:3]1)[CH3:1].[Br:9]>>[H:8][Br:9].[CH3:1][C:2]1[CH2:7][CH2:6][CH2:5][CH:4]=[CH:3]1 9-9,8;2,8-8,9;2,8-2",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])([H:7])[O:4][O:5][H:6].[H:8][O:9]>>[H:1][C:2]([H:3])[O:4][O:5][H:6].[H:8][O:9][H:7] 9-9,7; 2,7-9,7; 2,7-2",Room Temperature,Propagation,abstraction
"[O:1]O.[O:6][C:5]1=[C:4]([O:3][H:2])C=CC=C1>>O[O:1][H:2].[O:3]=[C:4](C=CC=C2)[C:5]2=[O:6] 1-1,2;2,3-1,2;2,3-3,4;4,5-4,3;4,5-5,6;6-6,5",Room Temperature,Termination,abstraction
"[H:3][O:4][O:5].[O:2][Cl:1]>>[H:3][O:2][Cl:1].[O:4][O:5] 2-2,3; 3,4-2,3; 3,4-4",Room Temperature,Propagation,abstraction
"[H:20][C:21]1(C2=C(C=CC=C2)C3=CC=CC=C31)C4=CC=CC=C4.CC(C)(C)[O:10]>>[H:20][O:10]C(C)(C)C.C1=CC=C(C=C1)[C:21]2C3=C(C=CC=C3)C4=CC=CC=C42 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:16][C:15]1=[CH:14][C:12]([C:11](=[C:9]2[C:8](=[O:19])[C:7](=[O:20])[C:6]3=[C:4]([CH:3]=[C:2]([CH:22]=[C:21]3[O:10]2)[OH:1])[OH:5])[CH:18]=[CH:17]1)[H:13]>>[H:16][C:15]1[CH:17]=[CH:18][C:11](=[C:9]2[C:8](=[O:19])[C:7](=[O:20])[C:6]3=[C:4]([CH:3]=[C:2]([CH:22]=[C:21]3[O:10]2)[OH:1])[OH:5])[C:12](=[CH:14]1)[H:13] 12-12,14; 14,15-12,14; 14,15-15",Room Temperature,Propagation,resonance
"CC=C(C)C.[Br:20][Br:21].[He]>>[He].CC=C(C)C.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
N#CCC[N+:20]([O-:10])[CH](C(OC)=O)[C@@H]1C[CH]C=C1>>N#CCC[N:20]([O:10])[CH](C(OC)=O)[C@@H]1C[CH]C=C1 10-20,Room Temperature,Propagation,ha resonance
"CCCC[CH:21]=[CH2:20].C1=CC2=C(C=C1)C(=O)[N:10]C2=O>>CCCC[CH:21][CH2:20][N:10]1C(=O)C2=C(C1=O)C=CC=C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC[CH:20]=[C:21](C)C.[Br:10]>>CCC[CH:20]([C:21](C)C)[Br:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:7][C:6]1=[CH:8][C:9]([C:2]([CH2:4][CH2:5]1)([CH3:1])[CH3:3])[H:10]>>[H:7][C:6]1[CH2:5][CH2:4][C:2]([C:9](=[CH:8]1)[H:10])([CH3:1])[CH3:3] 9-9,8;8,6-6;8,6-9,8",Room Temperature,Propagation,resonance
"C[C:10](C)CBr.[Br:20]>>C[C:10](C)(CBr)[Br:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]CCl.[Cl:20]>>C([CH2:10][Cl:20])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[C:12](=[C:14]([F:15])[F:16])([F:11])[F:13].[C:6]([C:4]([F:5])([F:9])[S:2](=[O:1])(=[O:10])[O-:3])([F:7])[F:8]>>[C:12]([C:14]([C:6]([C:4]([F:9])([F:5])[S:2](=[O:10])(=[O:1])[O-:3])([F:8])[F:7])([F:15])[F:16])([F:11])[F:13] 6-6,14;14,12-14,6;14,12-12",Room Temperature,Propagation,addition
